US06888032B2
A Schlenk tube was charged with CuCN (108 mg, 1.21 mmol), NaI (150 mg, 1.00 mmol), evacuated and backfilled with argon. trans-N,N′-Dimethyl-1,2-cyclohexanediamine (190 μL, 1.21 mmol) and 4-chlorobenzene (0.95 mL, 8.01 mmol) were added under argon. The Schlenk tube was sealed with a Teflon valve and the reaction mixture was stirred at 130° C. for 20 h. The resulting black suspension was allowed to reach room temperature. Ethyl acetate (3 mL) and dodecane (internal GC standard, 230 μL) were added to the reaction mixture. A 50 μL sample of the supernatant solution was diluted with ethyl acetate (1 mL) and analyzed by GC to provide 60% yield of 4-methylbenzonitrile.

reactant | CuCN | 1.21 mmol, 108 mg | C(#N)[Cu]
reactant | NaI | 1.00 mmol, 150 mg | [Na+].[I-]
reactant | trans-N,N′-Dimethyl-1,2-cyclohexanediamine | 1.21 mmol, 190 μL | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | 4-chlorobenzene | 8.01 mmol, 0.95 mL | ClC1=CC=CC=C1 | C6H5Cl
reactant | dodecane | 230 μL | CCCCCCCCCCCC | C12H26
solvent | ethyl acetate | 1 mL | C(C)(=O)OCC | C4H8O2
solvent | Ethyl acetate | 3 mL | C(C)(=O)OCC | C4H8O2
product | 4-methylbenzonitrile | 60% yield | CC1=CC=C(C#N)C=C1 | C8H7N
